US08710065B2
N,N-bis(2-methoxyethyl)-4-nitroaniline
1-fluoro-4-nitrobenzene (133 mg, 0.94 mmol), bis(2-methoxyethyl)amine (125 mg, 0.94 mmol) and potassium carbonate (143 mg, 1.04 mmol) were stirred in DMSO (2 mL) at 70° C. for 24 hours. The reaction mixture was poured into water, and the aqueous phase was extracted with ethyl acetate (2×25 mL). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated to provide the title compound. MS (ESI+) m/e 255.1 (M+H)+.

reactant | 1-fluoro-4-nitrobenzene | 0.94 mmol, 133 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | bis(2-methoxyethyl)amine | 0.94 mmol, 125 mg | COCCNCCOC | C6H15NO2
reactant | potassium carbonate | 1.04 mmol, 143 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | N,N-bis(2-methoxyethyl)-4-nitroaniline | COCCN(C1=CC=C(C=C1)[N+](=O)[O-])CCOC | C12H18N2O4
